US09102591B2
2-chloro-N-(2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2-chlorobenzoic acid and 2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine. LCMS (MH+): m/z=407.1, tR (minutes, Method F)=2.25

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | N1=CC=C(C=C1)C(CN)C=1C=NC(=NC1)C(F)(F)F | C12H11F3N4
product | 2-chloro-N-(2-(pyridin-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)C2=CC=NC=C2)C=CC=C1 | C19H14ClF3N4O
